US07300907B2
Concentrated sulfuric acid (15 mL) was placed in a 100 mL 3-neck flask equipped with an internal thermometer and heated to 55° C. 3-Bromo-2-fluoro-6-chlorobenzonitrile (11.0 g, 47 mmol) was added portion-wise to the acid with stirring maintaining the temperature above 50° C. The dark solution was heated at 65° C. for 24 hours, allowed to cool to room temperature, poured over ice, and cautiously neutralized with concentrated ammonium hydroxide. The mixture was extracted with two portions of ethyl acetate and the combined organic layers were dried and concentrated to give 3-bromo-2-fluoro-6-chlorobenzamide (11.5 g, 45.5 mmol) as a light orange solid: mp 157-158° C., 1H NMR (CDCl3): δ 7.54 (t, 1H), 7.14 (dd, 1H), 6.03 (br s, 1H) 5.81 (br s, 1H).

reactant | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3-Bromo-2-fluoro-6-chlorobenzonitrile | 47 mmol, 11.0 g | BrC=1C(=C(C#N)C(=CC1)Cl)F | C7H2BrClFN
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-bromo-2-fluoro-6-chlorobenzamide | 45.5 mmol, 11.5 g | BrC=1C(=C(C(=O)N)C(=CC1)Cl)F | C7H4BrClFNO
